US07884127B2
2-Chloro-5-nitro-benzoic acid
2-Chlorobenzoic acid (2 g, 12.7 mmol) was added with stirring at 25° C. to a nitrating mixture (20 mL) prepared from 1:1 HNO3 (70%) and H2SO4 (98%). It was stirred for 1 h. and poured into ice water. The title compound obtained was filtered and dried.

reactant | 2-Chlorobenzoic acid | 12.7 mmol, 2 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 2-Chloro-5-nitro-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
